US07632857B2
BOC proline (CAS 15761-39-4) and 2-(R)Methyl-pyrrolidine hydrochloride (CAS 135324-85-5) are coupled in a manner substantially analogous to Procedure B′ in dichloromethane to give 2(S)-(2(R)-Methyl-pyrrolidine-1-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester. The material is deprotected by stirring in dichloromethane at 5-10° C. while trifluoroacetic acid (10 eq,) is added and then stirred at room temperature for 18 hours. Reaction is concentrated, is dissolved in H2O, pH is adjusted to 8-9 with K2CO3, and is extracted several times with CH2Cl2. The extracts are combined, dried (Na2SO4) and concentrated in vacuo to give (2(R)-Methyl-pyrrolidin-1-yl)-pyrrolidin-2-yl-methanone. A 1 M Lithium Aluminum Hydride/THF solution (3 eq.) is diluted with an equal volume of THF and stirred under N2 as a THF solution of (2(R)-methyl-pyrrolidin-1-yl)-pyrrolidin-2-yl-methanone is added dropwise, allowing the reaction to mildly exotherm. The reaction mixture is stirred at 40° C. for 45 minutes, then at room temperature 18 hours. The mixture is cooled in an ice bath and is quenched with H2O (3 eq.), 4 N NaOH (3 eq.), then H2O (9 eq.) while keeping reaction temperature less than 15° C. The mixture is stirred overnight, filtered and the precipitate is washed three times with THF. The filtrate and washes are combined and concentrated to give 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (ES+) 169.3 (M+H)+ The title compound is used as such or is purified by SCX chromatography or distillation.

reactant | Lithium Aluminum Hydride THF | 1 M, 3 eq. | [H-].[Al+3].[Li+].[H-].[H-].[H-].C1CCOC1
reactant | (2(R)-methyl-pyrrolidin-1-yl)-pyrrolidin-2-yl-methanone | C[C@H]1N(CCC1)C(=O)C1NCCC1 | C10H18N2O
reactant | H2O | 3 eq. | O | H2O
reactant | NaOH | 4 N, 3 eq. | [OH-].[Na+]
reactant | H2O | 9 eq. | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
